US03950406
Preparation of 4-hydroxy-1octyne
A suspension of 24.3 g. (1.0 mole) of magnesium in 90 ml of dry ether is stirred at room temperature under nitrogen with 100 mg. of mercuric chloride. The reaction is initiated by the addition of 2 ml. of propargyl bromide and maintained by the dropwise addition of a solution of 119.5 g. (1.0 mole) of propargyl bromide and 107.7 g. (1.25 mole) of valeraldehyde in 300 ml. of dry ether. While the initial reaction is quite vigorous and is maintained at 30°C. only by cooling in an ice bath it may become necessary to heat the mixture to reflux temperature after about a third of the ether solution is added in order to maintain the reaction. After the addition is complete the reaction mixture is refluxed until most of the magnesium is dissolved (several hours) and the reaction mixture is decanted from excess magnesium into 1500 ml. of stirred ice-cold ammonium chloride solution. The ether layer is separated and the aqueous layer is extracted three times with 300 ml. portions of ether. The combined ether extract is washed with saturated sodium chloride solution, dried over magnesium sulfate and filtered. Evaporation of the ether under vacuum leaves about 115 mg. of yellow oil, which is distilled through a 15 cm. Vigreaux column at 18 mm. The fraction boiling at 81°-82°C. is collected (36 g.) and the higher-boiling and lower-boiling distillates may be redistilled to yield additional product. The infrared absorption spectrum shows at most a trace of allene (5.1 μ) and gas-liquid partition chromatography shows a purity of about 98% for the main fraction.

reactant | magnesium | 1.0 mole | [Mg] | Mg
reactant | propargyl bromide | C(C#C)Br | C3H3Br
reactant | propargyl bromide | 1.0 mole | C(C#C)Br | C3H3Br
reactant | valeraldehyde | 1.25 mole | C(CCCC)=O | C5H10O
solvent | ether | 90 ml | CCOCC | C4H10O
product | 4-hydroxy-1octyne | OC(CC#C)CCCC | C8H14O
